US06093732
To a solution of ethyl 8-fluoro-4-hydroxy-6-methylquinolone-3-carboxylate (0.50 g) in 30 mL of 1:1 MeOH:THF is added 8 mL of 1M LiOH. The reaction is maintained at 40° C. overnight. The reaction mixture is cooled to room temperature, then diluted with 20 mL glacial acetic acid. The resulting precipitate is collected, washed with H2O, and dried to yield 0.382 g of 8-fluoro-4-hydroxy-6-methyl-3-quinolinecarboxylic acid as a white solid. To a solution of this acid (0.23 g) and 4-chlorophenylhydrazine (0.21 g) in 10 mL DMF is added triethylamine (0.16 m), EDC (0.24 g), and HOBt (0.16 g). The mixture is stirred at room temperature for 3 days. Upon diluting the reaction mixture with 100 mL H2O, an orange solid precipitates. The crude product is adsorbed onto silica and chromatographed eluting with 4% MeOH in CHCl2. Fractions homogenous by TLC are condensed and recrystallized from EtOAc/hexanes to yield 0.0181 g of the desired product as a white solid.

reactant | ethyl 8-fluoro-4-hydroxy-6-methylquinolone-3-carboxylate | 0.50 g | FC=1C=C(C=C2C(=C(C(NC12)=O)C(=O)OCC)O)C | C13H12FNO4
reactant | THF | C1CCOC1 | C4H8O
reactant | LiOH | 1M, 8 mL | [Li+].[OH-]
solvent | MeOH | 30 mL | CO | CH4O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 8-fluoro-4-hydroxy-6-methyl-3-quinolinecarboxylic acid | 0.382 g | FC=1C=C(C=C2C(=C(C=NC12)C(=O)O)O)C | C11H8FNO3
